US04894458
Ethyl 1-ethyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylate
To the cooled mixture of 55% sodium hydride (0.47 g) in anhydrous dioxane (20 ml) was added ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)-3-ethylaminoacrylate (2.6 g) during 10 minutes with stirring. After stirring for 40 minutes at room temperature, the reacting mixture was poured into ice-water (50 ml), the resulting precipitate was collected by filtration, washed with chilled water and ether successively and recrystallized from dichloromethane-n-hexane to give the title compound (1.6 g) as colorless prisms, mp 177°-179.5° C.

reactant | sodium hydride | 0.47 g | [H-].[Na+]
reactant | ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)-3-ethylaminoacrylate | 2.6 g | FC1=C(C(=O)C(C(=O)OCC)=CNCC)C=C(C(=C1C)F)F | C15H16F3NO3
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | Ethyl 1-ethyl-6,7-difluoro-1,4-dihydro-8-methyl-4-oxo-3-quinolinecarboxylate | 1.6 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)OCC | C15H15F2NO3
